US07288547B2
Production of 5-[5-bromo-4-(1-ethyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide
73 mg (0.2 mmol) of 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide and 32 mg (0.27 mmol) of 3-mercapto-2-pentanone are dissolved in 4 ml of DMF p.a. After 0.038 ml (0.27 mmol) of triethylamine is added, it is allowed to stir for 2 hours at room temperature and for 3 hours at 50° C. After concentration by evaporation, it is flashed with dichloromethane/MeOH (9:1).

reactant | 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide | 0.2 mmol, 73 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)Cl | C9H7BrClN5O2S
reactant | 3-mercapto-2-pentanone | 0.27 mmol, 32 mg | SC(C(C)=O)CC | C5H10OS
reactant | triethylamine | 0.27 mmol, 0.038 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 5-[5-bromo-4-(1-ethyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SC(C(C)=O)CC | C14H16BrN5O3S2
